US07501518B2
To a solution of meso-2′β,6′β-[3,4′,3″-trimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridin-4′-ol (0.2499 g, 0.84 mmol) in DMF (9 mL) was added 2-(4-bromo-butyl)-isoindole-1,3-dione (0.2605 g, 0.92 mmol), KI (0.0142 g, 0.08 mmol), and DIPEA (0.29 mL, 1.68 mmol), and stirred at 60° C. for 24 hours. The mixture was concentrated, and saturated NaHCO3 (30 mL) was added and extracted with CH2Cl2 (3×35 mL). The combined organic extracts were washed with brine (2×20 mL), dried (Na2SO4), filtered, and concentrated. Purification of the crude material by column chromatography on silica gel (50:1:1 CH2Cl2—MeOH—NH4OH) provided 0.3144 g (75%) of meso-2′β,6′β-[2-[4-(4′-hydroxy-3,4′,3″-trimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′yl)-butyl]-isoindole-1,3-dione as a white solid. 1H NMR (CDCl3) δ 0.48 (s, 1H), 0.86 (s, 2H), 1.42 (s, 3H), 1.68-1.72 (m, 2H), 2.18-2.38 (m, 6H), 2.45 (s, 6H), 3.15 (t, 2H, J=6.0 Hz), 4.13 (d, 2H, J=12.0 Hz), 6.94-7.03 (m, 2H), 7.25-7.34 (m, 2H), 7.67-7.70 (m, 2H), 7.75-7.78 (m, 2H), 8.32-8.34 (m, 2H).

reactant | 3,4′,3″-trimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridin-4′-ol | 0.84 mmol, 0.2499 g | CC=1C(=NC=CC1)C1NC(CC(C1)(O)C)C1=NC=CC=C1C | C18H23N3O
reactant | 2-(4-bromo-butyl)-isoindole-1,3-dione | 0.92 mmol, 0.2605 g | BrCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO2
reactant | DIPEA | 1.68 mmol, 0.29 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 2-[4-(4′-hydroxy-3,4′,3″-trimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′yl)-butyl]-isoindole-1,3-dione | OC1(CC(N(C(C1)C1=NC=CC=C1C)CCCCN1C(C2=CC=CC=C2C1=O)=O)C1=NC=CC=C1C)C | C30H34N4O3
